US05760032
3-Methylindole-2-carboxylic acid (0.5 g) and 3-aminomethyl-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazole di-p-toluenesulfonate (2.1 g) was dissolved in DMF (42 ml). Triethylamine (1.6 ml) and Bop reagent (1.32 g) were added under ice-cooling, and the mixture was stirred for 6 hours. Water was added, and the mixture was extracted with ethyl acetate. The extract was washed with an aqueous citric acid solution, saturated brine, a saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography using a mixed solvent of ethyl acetate and methanol as an eluent and recrystallized from a mixed solvent of ethyl acetate and hexane to give 0.22 g of N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-yl-methyl)-3-methyl-1H-indole-2-carboxamide.

reactant | 3-Methylindole-2-carboxylic acid | 0.5 g | CC1=C(NC2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | 3-aminomethyl-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazole di-p-toluenesulfonate | 2.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C1(=CC=C(C=C1)S(=O)(=O)O)C.NCC1=NN=C(N1C=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC)C
reactant | Triethylamine | 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | Bop reagent | 1.32 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 42 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-yl-methyl)-3-methyl-1H-indole-2-carboxamide | 0.22 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C)CNC(=O)C=2NC3=CC=CC=C3C2C)C=CC=C1 | C27H24ClN5O2S
